US05340802
43a: Cbz-Asp(O-t-Bu)-Phe-NH2
To a -10° C. solution of Cbz-Asp(O-t-Bu) (2.5 g, 4.95 mmol) in THF (40 mL) were added NMM (0.52 g, 5.18 mmol) followed by isobutylchloroformate (0.705 g, 5.16 mmol) to form a white precipitate. The suspension was stirred for 4 minutes and a solution of Phe-NH2 (0.81 g, 4.94 mmol) in DMF (10 mL) and water (5 mL) were added. The solution was stirred at -15° C. for additional 10 minutes then allowed to warm to ambient temperature. After 6 hours, the solution was diluted with ethyl acetate, washed with 1M HCl, saturated bicarbonate solution and brine. After drying over anhydrous sodium sulfate, the solvent was removed in vacuo to yield 2.07 g (89% yield) of the title compound as a white solid which was recrystallied from ethyl acetate. MS(FAB+) m/e 470 (M+H+). 1H NMR (300 MHz,CDCl3) δ1.41 (s, 9H), 2.67 (dd, J=6 and 15 Hz, 1H), 2.80 (dd, 1H), 3.03-3.22 (m, 2H), 4.42 (m, 2H), 4.64 (m, 2H), 5.17 (dd, 2H), 7.15-7.40 (m, 10H).

reactant | Cbz-Asp(O-t-Bu) | 4.95 mmol, 2.5 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C16H21NO6
reactant | NMM | 5.18 mmol, 0.52 g | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 5.16 mmol, 0.705 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | Phe-NH2 | 4.94 mmol, 0.81 g | N[C@@H](CC1=CC=CC=C1)C(=O)N | C9H12N2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Cbz-Asp(O-t-Bu)-Phe-NH2 | 2.07 g, 89% yield | N([C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N)C(=O)OCC1=CC=CC=C1 | C25H31N3O6
